US04263319
A stirred mixture of 12.5 g (0.54 mole) of sodium hydride (25 g of a 50% dispersion in mineral oil) in 300 ml of dimethylformamide and 900 ml of benzene was placed under a nitrogen atmosphere and cooled to 0° C. To this mixture, 104.3 g (0.9 mole) of diethyl malonate was added dropwise during a 5 minute period and the mixture was stirred until hydrogen evolution ceased. 2-(Bromomethyl)-biphenyl (117 g, 0.47 mole) was then added at 0° C. Upon complete addition the reaction mixture was stirred at 0° C. for 30 minutes, then was allowed to warm to ambient temperature with stirring for one hour. The reaction mixture was poured into 500 ml of water, the layers separated, and the aqueous layer washed with two portions of 250 ml each of diethyl ether. The organic layer was combined with the ether washings, and the whole was washed with one portion of 500 ml of aqueous 5 % hydrochloric acid, one portion of 500 ml of water, one portion of 300 ml of a solution saturated with sodium bicarbonate, and finally, one portion of 500 ml of water. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to an oil residue. The oil was distilled under reduced pressure to give 149.0 g of diethyl (2-phenylbenzyl)malonate; b.p. 175°-180° C./0.8-0.9 mm. The nmr spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.54 mole, 12.5 g | [H-].[Na+]
reactant | diethyl malonate | 0.9 mole, 104.3 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | 2-(Bromomethyl)-biphenyl | 0.47 mole, 117 g | BrCC1=C(C=CC=C1)C1=CC=CC=C1 | C13H11Br
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 500 ml | O | H2O
solvent | benzene | 900 ml | C1=CC=CC=C1 | C6H6
product | diethyl (2-phenylbenzyl)malonate | 149.0 g | C1(=CC=CC=C1)C1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C20H22O4
